US08022223B2
Step C: Preparation of 4-(2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)benzonitrile:
Added potassium 2-methylpropan-2-olate (0.097 g, 0.87 mmol) to a solution of methyl 3-(2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)propanoate (100 mg, 0.289 mmol) in DMSO (1 mL). Stirred 15 minutes, added 4-fluorobenzonitrile (0.105 g, 0.866 mmol) and stirred overnight. Partitioned between ethyl acetate and water. Washed the organic layer with water, brine, dried, and concentrated. Purified by MPLC eluting with 3:2 hexane:ethyl acetate to afford the title compound (0.034 g, 33% yield) as a white powder: 1H NMR (CDCl3) δ 7.10-7.15 (m, 3H), 7.32 (dd, 1H), 7.52 (d, 2H), 7.87 (d, 1H), 7.96 (d, 1H), 8.42 (d, 1H), 8.58 (d, 1H), 9.10 (bs, 1H).

reactant | potassium 2-methylpropan-2-olate | 0.87 mmol, 0.097 g | CC(C)(C)[O-].[K+]
reactant | methyl 3-(2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)propanoate | 0.289 mmol, 100 mg | N1=C(SC2=NC=CC=C21)NC2=NC=CC=C2SCCC(=O)OC | C15H14N4O2S2
reactant | 4-fluorobenzonitrile | 0.866 mmol, 0.105 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 4-(2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)benzonitrile | 0.034 g, 33% yield | N1=C(SC2=NC=CC=C21)NC2=NC=CC=C2SC2=CC=C(C#N)C=C2 | C18H11N5S2
